US08624034B2
Step A) (2R)-4-(5-Fluoro-3-hydroxy-2-oxo-4-phenylpyridin-1(2H)-yl)-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide
Boron tribromide (760 μL, 0.76 mmol, 1.0 M in dichloromethane) was added to a solution of (2R)-4-(5-fluoro-3-methoxy-2-oxo-4-phenylpyridin-1(2H)-yl)-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide (156 mg, 0.378 mmol) in DCM (16.0 mL) at 0° C. The reaction was allowed to warm to rt and stirred overnight. The reaction mixture was concentrated to afford a brown solid. The crude product was purified via prepratory HPLC to afford the title compound as a yellow solid (25.4 mg, 16.9%). MS (LCMS) m/z 399.0 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.59 (s, 3H) 2.11-2.25 (m, 1H) 3.07 (s, 1H) 3.13 (s, 2H) 3.70-3.88 (m, 1H) 4.02-4.26 (m, 1H) 7.11 (d, J=7.81 Hz, 1H) 7.37-7.65 (m, 5H).

reactant | Boron tribromide | 0.76 mmol, 1.0 M, 760 μL | B(Br)(Br)Br | BBr3
reactant | (2R)-4-(5-fluoro-3-methoxy-2-oxo-4-phenylpyridin-1(2H)-yl)-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | 0.378 mmol, 156 mg | FC=1C(=C(C(N(C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O)OC)C1=CC=CC=C1 | C18H21FN2O6S
solvent | DCM | 16.0 mL | C(Cl)Cl | CH2Cl2
product | (2R)-4-(5-Fluoro-3-hydroxy-2-oxo-4-phenylpyridin-1(2H)-yl)-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | 25.4 mg, 16.9% | FC=1C(=C(C(N(C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O)O)C1=CC=CC=C1 | C17H19FN2O6S
